US07465836B2
1-(4-Chlorophenyl)-1,3-dihydrobenzo[c][1,2]oxaborole (17)
This was prepared as per the procedure in Example 11, from 2-(4-chlorophenyl)-[1,3,2]-dioxaborolane and 1-bromo-2-((methoxymethoxy)methyl)benzene to afford white crystalline product.

reactant | 2-(4-chlorophenyl)-[1,3,2]-dioxaborolane | ClC1=CC=C(C=C1)B1OCCO1 | C8H8BClO2
reactant | 1-bromo-2-((methoxymethoxy)methyl)benzene | BrC1=C(C=CC=C1)COCOC | C9H11BrO2
product | 1-(4-Chlorophenyl)-1,3-dihydrobenzo[c][1,2]oxaborole | ClC1=CC=C(C=C1)B1OCC2=C1C=CC=C2 | C13H10BClO
